US06372770B1
2-(3-Cyclopentyloxy-4-methoxybenzyl)-7-(2-imidazolylmethylamino)Benzoxazole
By employing a procedure similar to that in Example 33 and using 2-(3-cyclopentyloxy-4-methoxybenzyl)-7-aminobenzoxazole (1.3 g, 0.0038 mol), imidazole-2-carboxaldehyde (0.54 g, 0.0056 mol) and sodium cyanoborohydride (0.38 g, 0.0060 mol), a yellow oil was obtained after workup. The oil was triturated with a 50:50 blend of hexane in ether and the solid product (0.5 g) which was obtained, was separated by filtration. This solid could be recrystallized from ethanol (1 g/14 ml) to give the title compound as white crystals, mp 179-180° C.

reactant | 2-(3-cyclopentyloxy-4-methoxybenzyl)-7-aminobenzoxazole | 0.0038 mol, 1.3 g | C1(CCCC1)OC=1C=C(CC=2OC3=C(N2)C=CC=C3N)C=CC1OC | C20H22N2O3
reactant | imidazole-2-carboxaldehyde | 0.0056 mol, 0.54 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | sodium cyanoborohydride | 0.0060 mol, 0.38 g | C(#N)[BH3-].[Na+]
product | 2-(3-Cyclopentyloxy-4-methoxybenzyl)-7-(2-imidazolylmethylamino)Benzoxazole | 0.5 g | C1(CCCC1)OC=1C=C(CC=2OC3=C(N2)C=CC=C3NCC=3NC=CN3)C=CC1OC | C24H26N4O3
